US04107308
8-Methyl-4-(methylthio)-imidazo[1,5-d]-as-triazine
A 1.66 gm. portion of 8-methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione is added to a solution of 0.23 gm. of sodium in 10 ml. of methanol. A 0.75 ml. portion of methyl iodide is added, the mixture is allowed to stand for 30 minutes and then evaporated to dryness. The product is chromatographed on a silica gel column. The appropriate fractions are recrystallized from acetone giving the desired product, m.p. 128°-129° C.

reactant | 8-methyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC=1N=CN2C(NN=CC21)=S | C6H6N4S
reactant | sodium | [Na] | Na
reactant | methyl iodide | CI | CH3I
solvent | methanol | CO | CH4O
product | 8-Methyl-4-(methylthio)-imidazo[1,5-d]-as-triazine | CC=1N=CN2C(=NN=CC21)SC | C7H8N4S
